US05212291
[6R-6-α, 7-β (Z)]]-3-[(Acetyloxy) methyl]-7-[[[2-[(diethoxyphosphinyl)amino]-4-thiazolyl](methoxyimino)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic Acid, Diphenylmethyl Ester
A solution of 1.69 g (5 mmol) of (Z)-2-[(diethoxyphosphinyl amino]-α-(methoxyimino)-4-thiazoleacetic acid, 0.75 g (5 mmol) of 1-hydroxybenzotriazole hydrate, and 1.03 g (5 mmol) dicyclohexylcarbodiimide in 30 ml methylene chloride was stirred at room temperature for 2 hours and filtered. To the filtrate was added 2.19 g (5 mmol) 7-aminocephalosporanic acid ("7-ACA"), benzhydryl ester, and stirring was continued overnight at room temperature. The mixture was filtered, washed with water and saturated sodium chloride, dried over sodium sulfate, and evaporated. The residue was chromotographed on Biosil A using methylene chloride plus 1% methanol to give 1.68 g of the desired product; MS ((+) FAB), 758 (M+H); IR (KBr, cm-1) 1790, 1734; NMR (300 MHz, d6 -DMSO) δ 1.25 (2t, 6, OCH2CH3), 1.96 (s, 3, CH3C=O), 3.62 (pair of doublets, 2, endocyclic-CH2S--), 3.88 (s, 3, OCH3), 4.05 (m, 4, OCH2), (AB quartet, 2, exocyclic-CH2S--), 5.23 (d, 1, 6H of 7-ACA), 5.92 (dd, 1, 7H of 7-ACA), 6.29 (s, 1, thiazole H), 7.15-7.70 (m, 1, CHQ2), 9.72 (d, 1H, NH).

reactant | (diethoxyphosphinyl amino]-α-(methoxyimino)-4-thiazoleacetic acid | C(C)OP(=O)(OCC)NC=1SC=C(N1)C(C(=O)O)=NOC | C10H16N3O6PS
reactant | 1-hydroxybenzotriazole hydrate | 5 mmol, 0.75 g | O.ON1N=NC2=C1C=CC=C2
reactant | dicyclohexylcarbodiimide | 5 mmol, 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7-aminocephalosporanic acid | 5 mmol, 2.19 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-[(Acetyloxy) methyl]-7-[[[2-[(diethoxyphosphinyl)amino]-4-thiazolyl](methoxyimino)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic Acid, Diphenylmethyl Ester | 1.68 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(=NOC)C=1N=C(SC1)NP(=O)(OCC)OCC)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H36N5O10PS2
